* C:\Users\Mark\Documents\Working-Projects\LeakageModel\LTspice\Dickson_Real_N=3.asc
V1 In 0 {VIn}
V2 Out 0 {VOut}
V3 clk1 0 PULSE(0 1 {0.5*T_SW} 1p 1p {0.5*T_SW} {T_SW})
V4 clk2 0 PULSE(0 1 0 1p 1p {0.5*T_SW} {T_SW})
XX1 0 In clk1 In N001 NC_01 NC_02 sccore params: RSW=1, T = {B}, B={B}
XX2 0 In clk2 In N001 NC_03 NC_04 sccore params: RSW=1, T = {B}, B={B}
XX3 0 In clk2 N001 N002 NC_05 NC_06 sccore params: RSW=1, T = {B}, B={B}
XX4 0 In clk1 N001 N002 NC_07 NC_08 sccore params: RSW=1, T = {B}, B={B}
XX5 0 In clk1 N002 Out NC_09 NC_10 sccore params: RSW=1, T = {B}, B={B}
XX6 0 In clk2 N002 Out NC_11 NC_12 sccore params: RSW=1, T = {B}, B={B}

* block symbol definitions
.subckt sccore B1 B2 clk1 T1 T2 VTP VBP
C1 VTP VBP {C}
C2 0 VTP {T*C}
C3 VBP 0 {B*C}
S1 VBP B1 clk1 0 SW
S2 B2 VBP clk2 0 SW
S3 T2 VTP clk2 0 SW
S4 VTP T1 clk1 0 SW
B1 clk2 0 V=1-V(clk1)
.model SW SW(Ron={RSW} Roff=1Meg Vt=.5 Vh=-0.05)
.param C=1n T=0 B=0
.ends sccore

.param VIn=1 VOut=3.5 T_SW={1/f}
.param  f 25Meg
.tran 0 400n 380n 1p
.param B = 0.05
.backanno
.end
